US08471005B2
Into a 30 ml, vial 2-methanesulfinyl-[1,2,4]triazino[1,6-a]indole (50.00 mg, 0.216 mol), 4-(4-morpholino)aniline (84.8 mg, 0.476 mol), and N-methylpyrrolidinone (0.10 mL) were combined and heated at 145° C. for 2 hours. The reaction was cooled to room temperature and the product was isolated by flash chromatography (ISCO, Silicagel, methanol/dichloromethane 0-10%) to provide (4-morpholin-4-yl-phenyl)-[1,2,4]triazino[1,6-a]indol-2-yl-amine as a brown solid (14 mg, 19%). MP: 205-210° C.; 1H-NMR (CDCl3) δ 9.00 (s, 1H), 8.10 (d, J=8.5 Hz, 1H), 7.81 (d, J=8.4 Hz, 1H), 7.68 (d, J=8.8 Hz, 2H), 7.42 (m, 1H), 7.31 (m, 1H), 6.99 (d, J=8.8 Hz, 2H), 6.94 (s, 1H), 6.80 (s, 1H), 3.89 (m, 4H), 3.16 (m, 4H); LC/MS (ESI+): 346.7 (M+H).

reactant | 2-methanesulfinyl-[1,2,4]triazino[1,6-a]indole | 0.216 mol, 50.00 mg | CS(=O)C1=NN2C(=CC3=CC=CC=C23)C=N1 | C11H9N3OS
reactant | 4-(4-morpholino)aniline | 0.476 mol, 84.8 mg | C1COCCN1C2=CC=C(C=C2)N | C10H14N2O
reactant | N-methylpyrrolidinone | 0.10 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol dichloromethane | CO.ClCCl
product | (4-morpholin-4-yl-phenyl)-[1,2,4]triazino[1,6-a]indol-2-yl-amine | 14 mg, 19% | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(=CC3=CC=CC=C23)C=N1 | C20H19N5O
